US07273880B2
Isopropyl iodide (2 equivalents) was added dropwise to a suspension of tert-butyl N-[4-aminocyclohexyl]-methylcarbamate (1 equivalent) and diisopropylethyl amine (3 equivalents) in THF. The resulting mixture was stirred for 1 day. TLC analysis showed some starting amine. Additional isopropyl iodide (1 equivalent) and diisopropylethyl amine (3 equivalents) were added to the reaction mixture and heated at 40° C. for 1 day. The reaction mixture was concentrated and chromatrographed to give tert-butyl N-[4-(isopropylamino)cyclohexyl]methylcarbamate: 22% yield, 271 (ESMS, MH+); 1H NMR (CDCl3) δ 4.65 (broad, 1H), 2.91 (m, 3H), 2.42 (m, 1H), 1.80 (ABm, 4H), 1.38 (s, 9H), 0.98 (d, 6H, J=6.3 Hz), 1.32-0.85 (m, 5H).

reactant | Isopropyl iodide | 2 equivalents | C(C)(C)I | C3H7I
reactant | tert-butyl N-[4-aminocyclohexyl]-methylcarbamate | 1 equivalent | NC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C12H24N2O2
reactant | diisopropylethyl amine | 3 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropyl iodide | 1 equivalent | C(C)(C)I | C3H7I
reactant | diisopropylethyl amine | 3 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl N-[4-(isopropylamino)cyclohexyl]methylcarbamate | 22% yield | C(C)(C)NC1CCC(CC1)CNC(OC(C)(C)C)=O | C15H30N2O2
